US07560558B2
(4,5-Dimethylfuran-2-yl)-(3-pyridyl)-methanone (1.8 g), methanol (30 ml), and a 28% aqueous ammonia solution (30 ml) were placed in a sealed tube and were stirred at 160° C. overnight. The reaction solution was cooled to room temperature, and the solvent was then removed by distillation under the reduced pressure. The residue was purified by column chromatography using hexane-ethyl acetate to give 5,6-dimethyl-[2,3′]-bipyridin-3-ol (1.1 g, yield 63%).

reactant | (4,5-Dimethylfuran-2-yl)-(3-pyridyl)-methanone | 1.8 g | CC=1C=C(OC1C)C(=O)C=1C=NC=CC1 | C12H11NO2
reactant | ammonia | 30 ml | N | H3N
solvent | methanol | 30 ml | CO | CH4O
product | 5,6-dimethyl-[2,3′]-bipyridin-3-ol | 1.1 g, yield 63% | CC=1C=C(C(=NC1C)C=1C=NC=CC1)O | C12H12N2O
